US05064854
4-(2,3'-Dimethoxy-5-biphenylyl)pyrrolidin-2-one
A solution is prepared from 339 mg of 4-(4-methoxy-3-trifluoromethanesulfonyloxyphenyl)-pyrrolidin-2-one in 9 ml of toluene and 4 ml of ethanol and stirred for 5 minutes under argon at room temperature with 38 mg of tetrakis(triphenylphosphine) palladium(0). After addition of 172 mg of m-methoxyphenylboronic acid and 1.3 ml of 2-molar sodium carbonate solution, the mixture is heated to 90° C. for 4 hours. After adding ethyl acetate and water, the organic phase is separated, washed neutral with saturated sodium chloride solution, dried over sodium sulfate, and concentrated. Recrystallization from alcohol/ethyl acetate/petroleum ether (40°-60° C.) yields 187 mg of compound having a melting point of 137°-139° C.

reactant | 4-(4-methoxy-3-trifluoromethanesulfonyloxyphenyl)-pyrrolidin-2-one | 339 mg | COC1=C(C=C(C=C1)C1CC(NC1)=O)OS(=O)(=O)C(F)(F)F | C12H12F3NO5S
reactant | m-methoxyphenylboronic acid | 172 mg | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | sodium carbonate | 2-molar, 1.3 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 9 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 4 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 38 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | O | H2O
product | 4-(2,3'-Dimethoxy-5-biphenylyl)pyrrolidin-2-one | 187 mg | COC1=C(C=C(C=C1)C1CC(NC1)=O)C1=CC(=CC=C1)OC | C18H19NO3
